US03954865
Using the procedure following Example 1, a mixture of 100 g 0f 5H-dibenzo[a,d]-cyclohepten-5-one, 98 g of methylamine and 1000 ml of benzene is treated with 53 g of titanium tetrachloride. The mixture is worked up after stirring at room temperature for 6 days. Short-path distillation of the crude product at 120° bath temperature and 0.1 micron pressure gives 101.2 g (95% yield) of N-methyl-5H-dibenzo[a,d]cyclohepten-5-imine as a viscous oil that solidifies slowly on standing. Nmr spectrum (in CDCl3): multiplet at τ 2.3-2.9 (8H) and singlets at 3.2 (2H) and 6.7 (3H).

reactant | 5H-dibenzo[a,d]-cyclohepten-5-one | C1=CC=CC=2C(C3=C(C=CC21)C=CC=C3)=O | C15H10O
reactant | methylamine | 98 g | CN | CH5N
catalyst | titanium tetrachloride | 53 g | [Ti](Cl)(Cl)(Cl)Cl
solvent | benzene | 1000 ml | C1=CC=CC=C1 | C6H6
product | N-methyl-5H-dibenzo[a,d]cyclohepten-5-imine | 101.2 g, 95% yield | CN=C1C2=C(C=CC3=C1C=CC=C3)C=CC=C2 | C16H13N
